US08084490B2
3-Methylene-3,4-dihydro-2H-benzo[b][1,4]dioxepine (5.00 g, 30.8 mmol) was dissolved in dry THF (100 mL). Borane-THF (1.0 M in THF, 10.3 mL) was added at 0° C. The reaction was stirred at RT for 5 hours. Aminosulfonic acid (6.97 g, 61.6 mmol) was added. The reaction was heated to reflux overnight. The reaction was cooled to room temperature and aqueous sodium hydroxide (3.0 M, 100 mL) was added. The solution was extracted with ethyl acetate (3×100 mL). The combined organic solution was dried over MgSO4. The solution was concentrated under vacuum and purified by chromatography (2% to 8% methanol in dichloromethane) to yield ((3,4-dihydro-2H-benzo[b][1,4]dioxepin-3-yl)methyl)amine as a colorless oil.

reactant | 3-Methylene-3,4-dihydro-2H-benzo[b][1,4]dioxepine | 30.8 mmol, 5.00 g | C=C1COC2=C(OC1)C=CC=C2 | C10H10O2
reactant | Borane THF | 1.0 M, 10.3 mL | B.C1CCOC1
reactant | Aminosulfonic acid | 61.6 mmol, 6.97 g | NS(=O)(=O)O | H3NO3S
reactant | sodium hydroxide | 3.0 M, 100 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ((3,4-dihydro-2H-benzo[b][1,4]dioxepin-3-yl)methyl)amine | O1C2=C(OCC(C1)CN)C=CC=C2 | C10H13NO2
